US07642264B2
2-Chloro-4-(2,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 4-(2,4-dichloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one (10.2 g, 0.033 mol) and phosphoroxychloride (50 ml) according to the general procedure I. Obtained as a light yellow solid (10.6 g, 98%). MS (ISP) 327.0 [(M+H)+]; mp 69.5° C.

reactant | 4-(2,4-dichloro-phenyl)-6-trifluoromethyl-1H-pyrimidin-2-one | 0.033 mol, 10.2 g | ClC1=C(C=CC(=C1)Cl)C1=NC(NC(=C1)C(F)(F)F)=O | C11H5Cl2F3N2O
reactant | phosphoroxychloride | 50 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-4-(2,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine | ClC1=NC(=CC(=N1)C1=C(C=C(C=C1)Cl)Cl)C(F)(F)F | C11H4Cl3F3N2
